US06239151B1
In a manner analogous to that described in Example 8 from (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methylvalerohydrazide and using imidazole-1-acetic acid in place of N-tert-butoxycarbonyl-β-alanine there was obtained (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-2′-[2-(1H-imidazol-1-yl)acetyl]-4-methylvalerohydrazide in the form of a gum.

reactant | (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-4-methylvalerohydrazide | C(C1=CC=CC=C1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(CC)CC)CC(C)C | C30H43N3O3
reactant | imidazole-1-acetic acid | N1(C=NC=C1)CC(=O)O | C5H6N2O2
product | (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-2′-(2-ethylbutyl)-2′-[2-(1H-imidazol-1-yl)acetyl]-4-methylvalerohydrazide | C(C1=CC=CC=C1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CN1C=NC=C1)=O)CC(CC)CC)CC(C)C | C35H47N5O4
